US08809539B2
(4-Bromophenyl)cyclopropylmethanol (15.0 g) is treated with triethylsilane (30 mL) and trifluoroacetic acid (30 mL) and stirred at room temperature overnight. The reaction mixture is concentrated under reduced pressure and the residue is purified by column chromatography (silica gel 230-400 mesh, ethyl acetate:n-hexane 3:97) to furnish 1-bromo-4-cyclopropylmethylbenzene.

reactant | (4-Bromophenyl)cyclopropylmethanol | 15.0 g | BrC1=CC=C(C=C1)C(O)C1CC1 | C10H11BrO
reactant | triethylsilane | 30 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-bromo-4-cyclopropylmethylbenzene | BrC1=CC=C(C=C1)CC1CC1 | C10H11Br
